US07314872B2
4,4-Dimethyl-pentanoic acid methyl ester (7.0 g, 48.5 mmol, 1.0 eq.) was treated with a solution of NaOH (4.0 g, 100 mmol, 2.1 eq.) in water (5 mL). The homogeneous solution was allowed to stir for 4-5 hours. The reaction was diluted with CH2Cl2 and the aqueous layer was extracted with CH2Cl2 (50 mL×3). The aqueous layer was acidified with 6M HCl to pH ˜1.5 and extracted with ethyl acetate (50 mL×3). The combined ethyl acetate fractions were dried over MgSO4, filtered and evaporated to provide 4,4-dimethyl-pentanoic acid (5.35 g, 41.1 mmol, 85%) as a colorless oil: 1H NMR (CDCl3, 400 MHz) δ 0.89 (s, 9H), 1.53-1.57 (m, 2H), 2.26-2.30 (m, 2H).

reactant | 4,4-Dimethyl-pentanoic acid methyl ester | 48.5 mmol, 7.0 g, 1.0 eq. | COC(CCC(C)(C)C)=O | C8H16O2
reactant | NaOH | 100 mmol, 4.0 g, 2.1 eq. | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4,4-dimethyl-pentanoic acid | 41.1 mmol, 5.35 g, 85% | CC(CCC(=O)O)(C)C | C7H14O2
